US07105554B2
3-(Phenylmethoxy)-4-[(4-trifluoromethylphenyl)methoxy]benzaldehyde
4-Trifluoromethylbenzyl bromide (0.17 mL, 1.09 mmol, 1 eq) was added dropwise to a stirred solution of 3-benzyloxy-4-hydroxybenzaldehyde (250 mg, 1.09 mmol, 1 eq) and cesium carbonate (357 mg, 1.09 mmol, 1 eq) in N,N-dimethylformamide (10 mL). The reaction mixture was stirred overnight, then diluted with ethyl acetate (30 mL) and washed sequentially with water (4×30 mL), 0.5M aqueous sodium hydroxide (30 mL), 10% HCl and brine. The organic solution was dried over sodium sulfate and evaporated in vacuo to give the product as a white powder (422 mg, 99%). 1H NMR (CDCl3) δ 9.82 (s, 1H, O═C—H), 5.28 (2H, s, CH2Ar), 5.21 (s, 2H, CH2Ph).

reactant | 4-Trifluoromethylbenzyl bromide | 1.09 mmol, 0.17 mL, 1 eq | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | 3-benzyloxy-4-hydroxybenzaldehyde | 1.09 mmol, 250 mg, 1 eq | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1O | C14H12O3
reactant | cesium carbonate | 1.09 mmol, 357 mg, 1 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-(Phenylmethoxy)-4-[(4-trifluoromethylphenyl)methoxy]benzaldehyde | 422 mg, 99% | C1(=CC=CC=C1)COC=1C=C(C=O)C=CC1OCC1=CC=C(C=C1)C(F)(F)F | C22H17F3O3
